US04178168
2-Nitrophenol, bromomethyl propyl ether, anhydrous potassium carbonate and acetone were reacted according to the procedure outlined in Example 1 to yield 2-propoxymethoxynitrobenzene, which was reduced to the corresponding aniline, and isolated by a vacuum distillation.

reactant | 2-Nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | bromomethyl propyl ether | C(CC)OCBr | C4H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-propoxymethoxynitrobenzene | C(CC)OCOC1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO4
